US06316637B1
3-Cyclopentyl-4-bromo-5-aminobenzimidazole.
To a solution of 3-cyclopentyl-5-aminobenzimidazole (1.0 g, 5.0 mmol) in 20 ml of AcOH was added solution of Br2 in AcOH until it produces a precipitation. The reaction mixture was concentrated in vacuo to provide a brown solid which was subjected to column chromatography (5% NH3 sat'd MeOH/CH2Cl2) to provide 0.70 g (2.5 mmol, 50%) of the product.

reactant | 3-cyclopentyl-5-aminobenzimidazole | 5.0 mmol, 1.0 g | C1(CCCC1)N1C=NC2=C1C=C(C=C2)N | C12H15N3
reactant | Br2 | BrBr | Br2
reactant | NH3 | N | H3N
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | AcOH | 20 ml | CC(=O)O | C2H4O2
product | 3-Cyclopentyl-4-bromo-5-aminobenzimidazole | 2.5 mmol, 0.70 g, 50% | C1(CCCC1)N1C=NC2=C1C(=C(C=C2)N)Br | C12H14BrN3
